US08258130B2
A mixture of 3-methyl-5-trifluoromethyl-indol-1-ylamine (223 mg, 1.04 mmol), 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (224 g, 1.04 mmol), HATU (475 mg, 1.25 mmol), DIPEA (404 mg 3.13 mmol) is stirred in DMF at 150° C. for 1 h. The reaction is quenched with water, extracted with extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated. The residue is chromatographed through silica gel eluting with 10% MeOH in DCM to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-methyl-5-trifluoromethyl-indol-1-yl)-amide (122 mg, 28%). MS: 412 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.22 (s, 1H), 8.79 (d, 1H), 8.66 (d, 1H), 8.06 (t, 1H), 7.91 (s, 1H), 7.60 (dd, 1H), 7.51 (s, 2H), 7.29 (s, 3H), 2.88 (s, 3H), 2.40 (s, 3H).

reactant | 3-methyl-5-trifluoromethyl-indol-1-ylamine | 1.04 mmol, 223 mg | CC1=CN(C2=CC=C(C=C12)C(F)(F)F)N | C10H9F3N2
reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 1.04 mmol, 224 g | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
reactant | HATU | 1.25 mmol, 475 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.13 mmol, 404 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-methyl-5-trifluoromethyl-indol-1-yl)-amide | 122 mg, 28% | CC1=CN(C2=CC=C(C=C12)C(F)(F)F)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C | C21H16F3N5O
